US09079866B2
Step B: 4′-(2-Aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-thiol
To a solution of ethyl 3-(4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-ylthio)propanoate (6.5 g, 16 mmol) in THF (70 mL) was added t-BuOK (3.68 g, 32.8 mmol) under a N2 atmosphere. After stirring for 10 min, methanol (5 mL) was added and the resulting mixture purified by FCC to give the title compound (4.8 g, 16 mmol, 98%). MS (ESI): mass calcd. for C16H12FN3S, 297.07; m/z found, 298.1 [M+H]+.

reactant | ethyl 3-(4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-ylthio)propanoate | 16 mmol, 6.5 g | NC1=NC=C(C=N1)C1=CC=C(C=C1F)C1=C(C=CC=C1)SCCC(=O)OCC | C21H20FN3O2S
reactant | t-BuOK | 32.8 mmol, 3.68 g | CC(C)(C)[O-].[K+]
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4′-(2-Aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-thiol | 16 mmol, 4.8 g, 98% | NC1=NC=C(C=N1)C1=CC=C(C=C1F)C=1C(=CC=CC1)S | C16H12FN3S
